US06403607B1
N-(2-Aminoethyl)-p-chloroaniline
4-Chlorofluorobenzene (92.00 g) and ethylenediamine (290.0 g) were placed in a pressure-resistant stainless-steel reactor. A stirrer was placed in the reactor and the reactor was sealed. Subsequently, the reaction mixture was stirred for 2 days at an external temperature of 200° C. The reaction mixture was allowed to cool, and chloroform (800 ml) was added to the mixture. The mixture was transferred to a separating funnel, washed sequentially with water (200 ml), saturated brine (200 ml), and a saturated sodium hydrogencarbonate solution (100 ml) in this order. The aqueous layer was extracted with chloroform (200 ml×3), washed with saturated brine, combined with the chloroform layer again, and dehydrated over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, to thereby yield the target compound (116.69 g) as a pale-yellow oily product, Since this product contained almost no impurities and was considered to be almost pure by NMR, the product was submitted to the next reaction step without further purification.

reactant | 4-Chlorofluorobenzene | 92.00 g | ClC1=CC=C(C=C1)F | C6H4ClF
reactant | ethylenediamine | 290.0 g | C(CN)N | C2H8N2
solvent | chloroform | 800 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-Aminoethyl)-p-chloroaniline | 116.69 g | NCCNC1=CC=C(C=C1)Cl | C8H11ClN2
